.SUBCKT AO222X4H7R A0 A1 B0 B1 C0 C1 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I C0:I C1:I Y:O VDD:B VSS:B
MMNM5 net11 A0 VSS VSS nm1p2_svt_lp W=250n L=60n m=1
MMNM4 net1 A1 net11 VSS nm1p2_svt_lp W=250n L=60n m=1
MMNM3 net10 B0 VSS VSS nm1p2_svt_lp W=250n L=60n m=1
MMNM2 net1 B1 net10 VSS nm1p2_svt_lp W=250n L=60n m=1
MMNM1 net6 C0 VSS VSS nm1p2_svt_lp W=250n L=60n m=1
MMNM0 net1 C1 net6 VSS nm1p2_svt_lp W=250n L=60n m=1
MMPM5 net1 C1 net13 VDD pm1p2_svt_lp W=310n L=60n m=1
MMPM4 net1 C0 net13 VDD pm1p2_svt_lp W=310n L=60n m=1
MMPM3 net13 B1 net19 VDD pm1p2_svt_lp W=310n L=60n m=1
MMPM2 net13 B0 net19 VDD pm1p2_svt_lp W=310n L=60n m=1
MMPM1 net19 A1 VDD VDD pm1p2_svt_lp W=310n L=60n m=1
MMPM0 net19 A0 VDD VDD pm1p2_svt_lp W=310n L=60n m=1
XXI1 net1 VDD VSS Y / INV pl=60n pw=760n nl=60n nw=600n
.ENDS
