.SUBCKT AO22X0P7H7R A0 A1 B0 B1 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I Y:O VDD:B VSS:B
MMNM3 net13 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM2 net1 A1 net13 VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM1 net14 B0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM0 net1 B1 net14 VSS nm1p2_svt_lp W=150n L=60n m=1
MMPM3 net1 B1 net8 VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM2 net8 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM1 net1 B0 net8 VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM0 net8 A0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
XXI1 net1 VDD VSS Y / INV pl=60n pw=222n nl=60n nw=174n
.ENDS
