.SUBCKT AOAI211X0P7H7R A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I Y:O VDD:B VSS:B
MMM3 net21 A1 VSS VSS nm1p2_svt_lp W=175n L=60n m=1
MMM7 Y C0 net19 VSS nm1p2_svt_lp W=175n L=60n m=1
MMM6 net19 A0 net21 VSS nm1p2_svt_lp W=175n L=60n m=1
MMM4 net19 B0 VSS VSS nm1p2_svt_lp W=175n L=60n m=1
MMM0 Y C0 VDD VDD pm1p2_svt_lp W=222n L=60n m=1
MMM2 net8 A1 VDD VDD pm1p2_svt_lp W=222n L=60n m=1
MMM1 net8 A0 VDD VDD pm1p2_svt_lp W=222n L=60n m=1
MMM5 Y B0 net8 VDD pm1p2_svt_lp W=222n L=60n m=1
.ENDS
