.SUBCKT AOI2BB2X1H7R A0N A1N B0 B1 VDD VSS Y
*.PININFO A0N:I A1N:I B0:I B1:I Y:O VDD:B VSS:B
MMN5 net8 A1N VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN6 Y net8 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MMN4 net10 B0 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MMN1 Y B1 net10 VSS nm1p2_svt_lp W=210n L=60n m=1
MMN0 net8 A0N VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMP5 Y net8 net13 VDD pm1p2_svt_lp W=270n L=60n m=1
MMP4 net13 B1 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MMP3 net8 A1N net15 VDD pm1p2_svt_lp W=190n L=60n m=1
MMP2 net13 B0 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MMP0 net15 A0N VDD VDD pm1p2_svt_lp W=190n L=60n m=1
.ENDS
